US06617339B1
3-(4-(4-(3-(4-Imidazolyl)propanoyl)piperazin-1-yl)-3-fluorophenyl)-5(R)-(isoxazol-3-yloxymethyl)oxazolidin-2-one
3-(4-(4-(3-(1-Triphenylmethyl-4-imidazolyl)propanoyl)-piperazin-1-yl)-3-fluorophenyl)-5(R)-(isoxazol-3-yloxymethyl)oxazolidin-2-one (460 mg, 0.63 mmol), was dissolved in a mixture of ethanol (20 ml) and MeOH (10 ml), cooled to 0° and treated with a solution of hydrogen chloride in ethanol (3.8 M, 5 ml). After stirring 48 hours at ambient temperature, the pH was adjusted to 8 with triethylamine, and the mixture evaporated to dryness. The residue was purified by chromatography on a 10 g silica Mega Bond Elut® column, eluting with a gradient from 0 to 20% MeOH in dichloromethane. Relevant fractions were combined and evaporated to give the desired product (60 mg). MS (ESP): 485 (MH+) for C23H25FN6O5;

reactant | 3-(4-(4-(3-(1-Triphenylmethyl-4-imidazolyl)propanoyl)-piperazin-1-yl)-3-fluorophenyl)-5(R)-(isoxazol-3-yloxymethyl)oxazolidin-2-one | 0.63 mmol, 460 mg | C1(=CC=CC=C1)C(N1C=NC(=C1)CCC(=O)N1CCN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)COC1=NOC=C1)=O)F)(C1=CC=CC=C1)C1=CC=CC=C1 | C42H39FN6O5
reactant | hydrogen chloride | Cl | ClH
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | MeOH | 10 ml | CO | CH4O
solvent | ethanol | 3.8 M, 5 ml | C(C)O | C2H6O
product | 3-(4-(4-(3-(4-Imidazolyl)propanoyl)piperazin-1-yl)-3-fluorophenyl)-5(R)-(isoxazol-3-yloxymethyl)oxazolidin-2-one | 60 mg | N1C=NC(=C1)CCC(=O)N1CCN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)COC1=NOC=C1)=O)F | C23H25FN6O5
